US05574178
Phosphorus oxychloride (26.2 ml, 0.29 mol) was added dropwise to N,N-dimethylformamide (17 ml, 0.22 mol) under ice cooling; subsequently, a solution of 5-benzyloxy-4-tert-butylbenzofuran (40 g, 0.14 mol) in N,N-dimethylformamide (10 ml) was added dropwise. The mixture was stirred first at room temperature for 20 min, then under heating at 80° C. for 2 h. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extracted layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and water, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 5-benzyloxy-4-tert-butyl-2-formylbenzofuran [16.2 g (yield, 36%)].

reactant | Phosphorus oxychloride | 0.29 mol, 26.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-benzyloxy-4-tert-butylbenzofuran | 0.14 mol, 40 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=CO2)C1C(C)(C)C | C19H20O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.22 mol, 17 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-4-tert-butyl-2-formylbenzofuran | 16.2 g, 36% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C=O)C1C(C)(C)C | C20H20O3
